US05942459
To a solution of 52.96 g the crude ethyl 3-(2-bromophenyl)-2-ethoxycarbonyl-3-methylpropionate (168.13 mmole) in dimethylsulfoxide (250 ml) and water (3 ml) was added 14 g of lithium chloride, and the mixture was heated at 150° C. for 2.5 hours. After cooling the mixture, dimethylsulfoxide was removed under reduced pressure, and the residue was diluted with an aqueous sodium chloride solution and extracted with ethyl acetate. The organic phase was washed with an aqueous ammonium chloride solution and dried over magnesium sulfate, and the solvent was removed under reduced pressure. The residual concentrate was further purified by distillation to give 28.04 g of ethyl 3-(2-bromophenyl)-3-methylpropionate (65%).

reactant | ethyl 3-(2-bromophenyl)-2-ethoxycarbonyl-3-methylpropionate | 168.13 mmole | BrC1=C(C=CC=C1)C(C(C(=O)OCC)C(=O)OCC)C | C15H19BrO4
reactant | lithium chloride | 14 g | [Cl-].[Li+]
solvent | dimethylsulfoxide | 250 ml | CS(=O)C | C2H6OS
solvent | water | 3 ml | O | H2O
product | ethyl 3-(2-bromophenyl)-3-methylpropionate | 28.04 g, 65% | BrC1=C(C=CC=C1)C(CC(=O)OCC)C | C12H15BrO2
